US08222256B2
2,6-Dichloropyrimidin-4-yl-(5-cyclopropyl-1H-pyrazol-3-yl)-amine.
A mixture of 2,4,6-trichloropyrimidine (30 g, 163 mmol), 5-cyclopropyl-1H-pyrazol-3-ylamine (20 g, 163 mmol), diisopropylethylamine (50 mL, 300 mmol) and 1-butanol (100 mL) was heated to 80° C. for 2 h. The solvents were removed on a rotary evaporator and the residue was taken up in ethyl acetate. The organic solution was washed with water and brine and dried over magnesium sulfate. The residue was concentrated on a rotary evaporator to give the desired product (40.7 g, 92%) as a light yellow solid.

reactant | 2,4,6-trichloropyrimidine | 163 mmol, 30 g | ClC1=NC(=CC(=N1)Cl)Cl | C4HCl3N2
reactant | 5-cyclopropyl-1H-pyrazol-3-ylamine | 163 mmol, 20 g | C1(CC1)C1=CC(=NN1)N | C6H9N3
reactant | diisopropylethylamine | 300 mmol, 50 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | 1-butanol | 100 mL | C(CCC)O | C4H10O
product | 2,6-Dichloropyrimidin-4-yl-(5-cyclopropyl-1H-pyrazol-3-yl)-amine | 40.7 g, 92% | ClC1=NC(=CC(=N1)NC1=NNC(=C1)C1CC1)Cl | C10H9Cl2N5
